US07781463B2
4-Benzyl-2-isopropyl-1,2,4-thiadiazolidine-3,5-dione (Compound 51)
Reagents: Benzyl isothiocyanate (0.81 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), isopropyl isocyanate (0.64 ml, 6.5 mmol).

reactant | Benzyl isothiocyanate | 6.5 mmol, 0.81 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | isopropyl isocyanate | 6.5 mmol, 0.64 ml | C(C)(C)N=C=O | C4H7NO
product | 4-Benzyl-2-isopropyl-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)C(C)C)=O | C12H14N2O2S
